US08114865B2
Step 2. 4-{4-[5-(3,5-Difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylcarbamoyl]-pyrazol-1-yl}-piperidine-1-carboxylic acid tert-butyl ester [(XVII), R1=R2=R3=H, R=3,5-difluorophenyl, R11=1-triphenylmethyl, Ar=1-(1-tert-butoxycarbonyl-piperidin-4-yl)-1H-pyrazol-4-yl]
To a stirred solution of 4-(4-carboxy-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester (200 mg, 0.677 mmol) in dry dichloromethane (6 mL), at 0° C., under argon, were added two drops of N,N-dimethylformamide and 62 microL of oxalyl chloride (1.05 eq). After 15 minutes the volatiles were removed under reduced pressure at room temperature. The crude acyl chloride thus obtained was dissolved under argon into dry tetrahydrofuran (5 mL), cooled to 0° C. and treated with a solution of 5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylamine (300 mg, 0.85 eq) and triethylamine (0.28 mL, 3 eq) in dry tetrahydrofuran (7 mL). The mixture was allowed to warm to room temperature overnight then evaporated to dryness. The residue was dissolved into dichloromethane, washed with water and with a saturated solution of sodium hydrogenocarbonate, dried over sodium sulphate and evaporated to dryness to give the crude title compound that was used as such for the next step without further purification.

reactant | 4-(4-carboxy-pyrazol-1-yl)-piperidine-1-carboxylic acid tert-butyl ester | 0.677 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C(=O)O | C14H21N3O4
reactant | oxalyl chloride | 1.05 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-(3,5-difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylamine | 300 mg, 0.85 eq | FC=1C=C(C=C(C1)F)S(=O)(=O)C=1C=C2C(=NN(C2=CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)N | C32H23F2N3O2S
reactant | triethylamine | 0.28 mL, 3 eq | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | two drops | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-{4-[5-(3,5-Difluoro-benzenesulfonyl)-1-trityl-1H-indazol-3-ylcarbamoyl]-pyrazol-1-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N=CC(=C1)C(NC1=NN(C2=CC=C(C=C12)S(=O)(=O)C1=CC(=CC(=C1)F)F)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C46H42F2N6O5S
